US05621010
To a solution of 2,6-di-tert-butyl-4-(2-nitrostyryl)phenol (1.1 g, 3.1 mmol) in methanol (15 ml) was added water (4 ml), conc. hydrochloric acid (0.2 ml) and iron powder (1.7 g, 30 mmol) and the mixture was heated under reflux for 5 hrs. After filtration, followed by extraction with ethyl acetate and water, the extract was washed with water, dried over MgSO4 and concentrated. Purification of the residue by a silica gel column chromatography followed by recrystallization from hexane afforded 4-(2-aminostyryl)-2,6-di-tert-butylphenol (0.70 g, 70%).

reactant | 2,6-di-tert-butyl-4-(2-nitrostyryl)phenol | 3.1 mmol, 1.1 g | C(C)(C)(C)C1=C(C(=CC(=C1)C=CC1=C(C=CC=C1)[N+](=O)[O-])C(C)(C)C)O | C22H27NO3
reactant | water | 4 ml | O | H2O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
catalyst | iron | 30 mmol, 1.7 g | [Fe] | Fe
product | 4-(2-aminostyryl)-2,6-di-tert-butylphenol | 0.70 g, 70% | NC1=C(C=CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=CC=C1 | C22H29NO
